US09403818B2
Preparation of tert-butyl 4-bromo-2-fluorobenzyl-carbamate
To a solution of (4-bromo-2-fluorophenyl) methanamine (2.5 g, 12 mmol) in DCM (50 mL) at 0° C. was added di-tert-butyl dicarbonate (4.01 g, 18 mmol) and triethylamine (2.6 mL, 18 mmol). The mixture was allowed to warm to room temperature and stirred for 2 h. Water was added (50 mL) and the layers were separated. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuum. The crude product was purified by flash silica column chromatography (heptane:ethyl acetate) (1:0 to 4:1) to afford the title compound as a colorless oil. (2.7 g, 71%).

reactant | (4-bromo-2-fluorophenyl) methanamine | 12 mmol, 2.5 g | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | di-tert-butyl dicarbonate | 18 mmol, 4.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-bromo-2-fluorobenzyl-carbamate | BrC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)F | C12H15BrFNO2
